US07989634B2
Step A: 2,2-dimethyl-3-methoxypropionic acid ethyl ester
To a solution of 2,2-dimethyl-3-hydroxypropionic acid ethyl ester (1.3 g, 10.0 mmol) in CH3CN (30 mL) was added Ag2O (11.5 g, 50.0 mmol) and methyl iodide (0.56 mL, 11 mmol). The reaction mixture was stirred at rt for 12 h and quenched with a saturated aqueous NH4Cl. The mixture was filtered though Celite, the filtrate concentrated in vacuo, and the residue was purified by column chromatography (EtOAc/Hex=1/10) to give the title compound (1.34 g, 91.2%).

reactant | 2,2-dimethyl-3-hydroxypropionic acid ethyl ester | 10.0 mmol, 1.3 g | C(C)OC(C(CO)(C)C)=O | C7H14O3
reactant | methyl iodide | 11 mmol, 0.56 mL | CI | CH3I
solvent | CH3CN | 30 mL | CC#N | C2H3N
product | 2,2-dimethyl-3-methoxypropionic acid ethyl ester | 1.34 g, 91.2% | C(C)OC(C(COC)(C)C)=O | C8H16O3
